US05235056
1-Hydroxy-2,6-diphenyl-4-piperidone Ethylene Ketal
812 mL (40.6 mmol) of dimethyldioxirane, 0.050M in acetone, is added via a cannula to a 0° C. solution of 12.0 g (40.6 mmol) of 2,6-diphenyl-4-piperidone ethylene petal in 100 mL acetone. After stirring for ten minutes at 0° C., the reaction mixture is concentrated under reduced pressure and the residue is recrystallized from methanol to yield 9.0 g (72%) of the title compound as a white solid, melting at 161°-162° C.

reactant | dimethyldioxirane | 40.6 mmol, 812 mL | CC1(OO1)C | C3H6O2
reactant | 2,6-diphenyl-4-piperidone ethylene | 40.6 mmol, 12.0 g | C=C.C1(=CC=CC=C1)C1NC(CC(C1)=O)C1=CC=CC=C1
reactant | acetone | CC(=O)C | C3H6O
reactant | acetone | 100 mL | CC(=O)C | C3H6O
product | 1-Hydroxy-2,6-diphenyl-4-piperidone Ethylene Ketal | 9.0 g, 72% | C1COC2(CC(N(C(C2)C2=CC=CC=C2)O)C2=CC=CC=C2)O1 | C19H21NO3
